US07855297B2
(R)-7-Methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.65 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (1.0 g) were reacted and treated in the same manner as in Example 12. The obtained solid was dissolved in ethyl acetate. Thereto was added 4 mol/L-HCl/ethyl acetate (1 mL). The solvent was evaporated under reduced pressure. The precipitated solid was recrystallized twice from ethanol to give (R)—N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride ½ ethanol (0.20 g).

reactant | (R)-7-Methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.65 g | COC1=CC=C2CCC[C@H](C2=C1)C(=O)O | C12H14O3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 1.0 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
reactant | HCl ethyl acetate | 1 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)—N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.20 g | Cl.CN(C1=CC=C(C=C1)CN(C(=O)[C@@H]1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C)C | InChI=1S/C30H36N2O2.ClH/c1-21(2)23-11-16-26(17-12-23)32(20-22-9-14-25(15-10-22)31(3)4)30(33)28-8-6-7-24-13-18-27(34-5)19-29(24)28;/h9-19,21,28H,6-8,20H2,1-5H3;1H/t28-;/m1./s1
